US04483857
Sodium hydroxide solution (80 ml, IN) was added to a suspension of 6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline hydrochloride in water (20 ml) followed by 4,6-dichloropyrimidine (5.95 g) and the mixture was heated on a steam bath for 5 hours. The solvent was evaporated in vacuo to give a brown oil which solidified on standing. Re-crystallization from aqueous ethanol followed by isopropanol gave 4-chloro-6-(6,7-dimethoxy-1,2,3,4-tetrahydroisoquinol-2-yl)pyrimidine (6.0 g). An analytical sample re-crystallized from isopropanol, m.p. 88°-89°.

reactant | Sodium hydroxide | 80 ml | [OH-].[Na+]
reactant | 6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | Cl.COC=1C=C2CCNCC2=CC1OC
reactant | 4,6-dichloropyrimidine | 5.95 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | ethanol | C(C)O | C2H6O
solvent | water | 20 ml | O | H2O
solvent | isopropanol | C(C)(C)O | C3H8O
product | 4-chloro-6-(6,7-dimethoxy-1,2,3,4-tetrahydroisoquinol-2-yl)pyrimidine | 6.0 g | ClC1=NC=NC(=C1)N1CC2=CC(=C(C=C2CC1)OC)OC | C15H16ClN3O2
